US04245088
In water (30 ml) was dissolved 7β-amino-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid (3.14 g) together-with sodium hydrogen carbonate (1.84 g) and 2-mercapto-5-methyl-1,3,4-thiadiazole (1.6 g) and the resultant solution was adjusted its pH to 6.4, followed by stirring for one hour at 60° C. After cooling, the reaction solution was washed with dichloromethane and pH of the aqueous layer was adjusted to 3.5 under ice-cooling, followed by stirring for one hour. The precipitated materials were collected by filtration and washed with water, methanol and acetone in this order, followed by drying to give 7β-amino-3-(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (2.9 g).

reactant | 7β-amino-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid | 3.14 g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C12H14N2O6S
reactant | sodium hydrogen carbonate | 1.84 g | C(O)([O-])=O.[Na+]
reactant | 2-mercapto-5-methyl-1,3,4-thiadiazole | 1.6 g | SC=1SC(=NN1)C | C3H4N2S2
solvent | water | 30 ml | O | H2O
product | 7β-amino-3-(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.9 g | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O | C11H12N4O3S3
